Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
allopurinol / Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___.
 
Chief Complaint:
Left lower extremity surgical site infection
 
Major Surgical or Invasive Procedure:
___ Left lower extremity incision and drainage, 
debridement of left foot ulcer
___ Left lower extremity washout, wound vac placement
___ Left lower extremity wound vac change, debridement 
left lower extremity ulcers
 
History of Present Illness:
Ms. ___ is a ___ year old female recently admitted for 
management of a chronic, non-healing left foot ulcer who 
underwent a left femoral to above knee popliteal bypass with 
NRGSV and left foot ulcer debridement with wound vac
placement. She was seen in clinic 3 days ago with left leg 
incision healing slowly and evidence of skin separation and 
wound infection in the left thigh.  There was weeping fluid but 
not purulent and staples intact. There also was significant 
surrounding erythema and so she was sent to rehab with augmentin
and was to follow-up in clinic in 2 weeks. She presents to the 
ED today with worsening pain and L groin to medial though wound 
dehiscence and purulent drainage. She is otherwise feeling well 
without fevers or chills, nausea or vomiting. She was admitted 
to the vascular surgery service for management of suspected left 
lower extremity surgical site infection.

 
Past Medical History:
PMH:
-HTN, labile  
-HLD  
-HYPOTHYROIDISM  
-RETINAL ARTERY OCCLUSION 
-Migraine 
-CAD/MI (MIs in ___ and ___: This demonstrated a mid  

RCA lesion which was stented with a drug-eluting stent. LAD had 
a proximal 30% stenosis, left circumflex had a ostial 50% 
stenosis. The distal RCA also had a 50% stenosis)  
-CHF (EF 60-65% in ___  
-OBESITY
-insulin-dependent DMII  
-Gout  
-Renal artery stenosis  
-CKDIII  
-Anemia  
-afib
-Depression 

PSH:
-Debridement of L foot infected ulcer
-LLE diagnostic angiogram
-L fem-AK pop bypass
 
Social History:
___
Family History:
Father died of colon cancer in ___.
 
Physical Exam:
General: NAD
CV: RRR
Pulm: No respiratory distress
Extremities: left groin wound with dressings in place. Bilateral 
chronic nonhealing ulcers of the lower extremities 

 
Pertinent Results:
ADMISSION LABS:

___ 04:00PM BLOOD Neuts-86* Bands-1 Lymphs-3* Monos-9 Eos-1 
Baso-0 ___ Myelos-0 AbsNeut-7.57* AbsLymp-0.26* 
AbsMono-0.78 AbsEos-0.09 AbsBaso-0.00*
___ 04:00PM BLOOD ___ PTT-53.7* ___
___ 04:00PM BLOOD Glucose-118* UreaN-57* Creat-1.8* Na-139 
K-4.8 Cl-97 HCO3-28 AnGap-14

DISCHARGE LABS:

___ 05:46AM BLOOD WBC-11.9* RBC-2.95* Hgb-8.7* Hct-27.5* 
MCV-93 MCH-29.5 MCHC-31.6* RDW-18.4* RDWSD-59.9* Plt ___
___ 05:46AM BLOOD Plt ___
___ 05:46AM BLOOD ___ PTT-28.0 ___
___ 05:46AM BLOOD Glucose-79 UreaN-68* Creat-2.2* Na-136 
K-3.7 Cl-96 HCO3-27 AnGap-13
___ 05:46AM BLOOD Calcium-7.6* Phos-5.3* Mg-2.1
 
Brief Hospital Course:
Ms. ___ presented on ___ to the emergency room with a 
concern for a surgical site infection and was given 
vanc/cipro/flagyl immediately. Her INR was also noted to be 5, 
so she received 10 of vitamin K in the emergency room. Her 
repeat INR was 2.3 preop. She was then taken to the operating 
room in the morning of ___ for a debridement and washout of 
the LLE. Please see OP note for more details regarding the 
procedure. Postoperatively, the LLE continued to exsanguinate. 
Cauterization and compression was done in the PACU and she was 
transferred to the wards. On ___ evening, she was noted to 
be hypotensive to SBP ___ and her Hct had drifted from 27 to 21. 
She was transferred to the SICU for monitoring. She received 2 
units of pRBC and 1 unit of FFP along with 10 of vitamin K. Her 
INR was noted to be 1.7 with Hct stable at 28. Since her last 
echo was only done in ___, a repeat echo was done that revealed 
her EF to be 40%, and so she was carefully volume resuscitated 
in preparation for another debridement, washout and vac 
placement on ___. Please see op report for more details. 
Following her ___ postop course, her summary will be written by 
systems. 

#NEURO: Patient was kept intubated and sedated to help 
facilitate multiple evaluation of her wound, however she was 
extubated on HD4 due to hypotension. Her pain was controlled 
with oxycodone and dilaudid. 

#CV: Patient was noted to become transiently hypotensive to SBP 
___ while she was sedated and so required levo on HD4. Her 
pressures improved once she was extubated. The patient remained 
stable from a cardiovascular standpoint; vital signs were 
routinely monitored.

#PULMONARY: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. She was 
extubated on HD4 without issues. 

#GI/GU/FEN: The patient had a foley placed intra-operatively for 
volume monitoring as well as to keep her incision clean. She was 
restarted on her home torsemide on ___. The patient was 
given oral diet once extubated, which she tolerated well. She 
was noted to have loose bowel movements and incontinent. Her 
C.diff was negative and so was given a flexiseal on HD3 to keep 
her wound clean. 

#ID: The patient's fever curves were closely watched for signs 
of infection. She was kept on vanc/cipro/flagyl as her initial 
wound cultures from her initial washout was noted to be 4+GNR, 
2+ GPC in pairs and chains and 1+ GPRs. On HD4, her cultures 
showed enterococcus and acinetobacter that were resistant to 
cipro and so was transitioned to ___ on HD4. ID was 
consulted on HD5. Given that there were no cultures showing MRSA 
and her vanc trough continued to be high, they recommended 
holding off on vanc. Her VAC was changed q3d and on her second 
VAC change, tissue swabs and cultures were sent that showed GPC 
in chains and pairs and GNRs. Updated culture data suggested VRE 
and daptomycin was started per ID recs. At the time of her 
discharge, antibiotics were discontinued according to the 
patient and her daughter's wishes (see below). 

#HEME: Patient received several units of blood over her hospital 
course for low hematocrits related to bleeding from her left 
thigh wound. Her last transfusion was ___ and her hematocrits 
were stable the following two days. 

#WOUNDS: The patient's left thigh wound vac was changed every 
___ days. She was also found to have bilateral lower extremity 
pressure ulcers, more extensive on the left than the right leg. 
The ulcers on the left leg were found to have purulent 
discharge, so she was taken to the operating room again on HD9 
(___) for debridement of her left lower extremity pressure 
ulcers. Santyl was used on these ulcers for the first 3 days 
post operatively. At the time of discharge to hospice, the wound 
vac was removed and the thigh wound was redressed with wet to 
dry gauze and overlying curlex. 

On ___ a family meeting was held with the patient's daughter 
and healthcare proxy with a discussion about the lack of 
progression in her wounds. The following day a second meeting 
was held with the patient's daughter as well as representatives 
from palliative care, social work, case management, and vascular 
surgery. At that time the patient and her daughter elected to 
transfer the patient to a ___ facility and enact a DNR/DNI 
order. At the time of her discharge, the patient's vitals were 
stable. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q8H 
2. Albuterol Inhaler 2 PUFF IH Q4H:PRN sob 
3. Aspirin 81 mg PO DAILY 
4. Bisacodyl ___AILY:PRN constipation 
5. BuPROPion (Sustained Release) 150 mg PO QAM 
6. Digoxin 0.125 mg PO 3X/WEEK (___) 
7. Docusate Sodium 100 mg PO BID constipation 
8. Ezetimibe 10 mg PO DAILY 
9. Febuxostat 40 mg PO DAILY 
10. Ferrous Sulfate 325 mg PO BID 
11. Fluticasone Propionate 110mcg 2 PUFF IH BID 
12. FoLIC Acid 1 mg PO DAILY 
13. HydrALAZINE 20 mg PO Q8H 
14. Isosorbide Dinitrate 20 mg PO TID 
15. Levothyroxine Sodium 112 mcg PO DAILY 
16. Methylprednisolone 4 mg PO DAILY 
17. Metoprolol Succinate XL 200 mg PO DAILY 
18. Miconazole Powder 2% 1 Appl TP BID 
19. nystatin 100,000 unit/gram topical ___ daily 
20. Omeprazole 20 mg PO DAILY 
21. OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - Severe 

22. Polyethylene Glycol 17 g PO DAILY constipation 
23. Prasugrel 10 mg PO DAILY 
24. Senna 8.6 mg PO BID:PRN constipation 
25. Vitamin D ___ UNIT PO DAILY 
26. Metolazone 2.5 mg PO PRN as directed by cardiologist 
27. Simethicone 40-80 mg PO QID:PRN bloating 
28. Spironolactone 12.5 mg PO DAILY 
29. Torsemide 60 mg PO BID 
30. Levofloxacin 500 mg PO Q48H foot infection 

 
Discharge Medications:
1.  Gabapentin 100 mg PO BID  
2.  Insulin SC 
      Sliding Scale

Fingerstick QACHS, HS
Insulin SC Sliding Scale using REG Insulin 
3.  OxyCODONE SR (OxyconTIN) 20 mg PO Q12H 
RX *oxycodone 20 mg 1 tablet(s) by mouth every twelve (12) hours 
Disp #*4 Tablet Refills:*0 
4.  Acetaminophen 650 mg PO Q8H  
5.  Albuterol Inhaler 2 PUFF IH Q4H:PRN sob  
6.  Aspirin 81 mg PO DAILY  
7.  Bisacodyl ___AILY:PRN constipation  
8.  BuPROPion (Sustained Release) 150 mg PO QAM  
9.  Docusate Sodium 100 mg PO BID constipation  
10.  Ezetimibe 10 mg PO DAILY  
11.  Febuxostat 40 mg PO DAILY  
12.  Ferrous Sulfate 325 mg PO BID  
13.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
14.  FoLIC Acid 1 mg PO DAILY  
15.  HydrALAZINE 20 mg PO Q8H  
16.  Isosorbide Dinitrate 20 mg PO TID  
17.  Levofloxacin 500 mg PO Q48H foot infection  
18.  Levothyroxine Sodium 112 mcg PO DAILY  
19.  Methylprednisolone 4 mg PO DAILY  
20.  Metoprolol Succinate XL 200 mg PO DAILY  
21.  Miconazole Powder 2% 1 Appl TP BID  
22.  nystatin 100,000 unit/gram topical ___ daily  
23.  Omeprazole 20 mg PO DAILY  
24.  OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
25.  Polyethylene Glycol 17 g PO DAILY constipation  
26.  Prasugrel 10 mg PO DAILY  
27.  Senna 8.6 mg PO BID:PRN constipation  
28.  Simethicone 40-80 mg PO QID:PRN bloating  
29.  Spironolactone 12.5 mg PO DAILY  
30.  Torsemide 60 mg PO BID  
31.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Surgical site infection of left thigh
Infection of left lower extremity pressure ulcers

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: somnolent but arousable.
Activity Status: Out of Bed with lift assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ on 
___ with a surgical site infection of your left thigh. You 
were started on antibiotics and taken to the operating room for 
left thigh debridement and subsequently for placement of a wound 
vac. You were also found to have left lower extremity pressure 
ulcers which appeared to be infected, so you were taken back to 
the operating room for debridement to ensure removal of any dead 
or infected tissue. 

At this time, you have elected to be transferred to a hospice 
facility. You ongoing care will be under the direction of the 
hospice team. 
 
Followup Instructions:
___